US07312209B2
385A. 2,6-Dimethyl-nicotinonitrile
A 100 mL round bottom flask equipped with a condenser was charged with 2-Chloro-6-methyl-nicotinonitrile (1 g, 6.55 mmol), MeB(OH)2 (216 mg, 7.22 mmol), K2CO3 (1.36 g, 19.67 mmol), and dioxane (33 mL), followed by Pd(PPh3)4 (758 mg, 0.66 mmol) under argon. The mixture was heated to reflux for 48 hours, and then cooled down to RT. The resulting mixture was concentrated in vacuo, treated with 1N HCl (150 mL), and extracted with EtOAc (100 mL), Et2O (50 mL). The aqueous layer was basified with 50% NaOH until PH=10, and then extracted with EtOAC (100 mL) three times. The combined organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by silica gel chromatography (5-10% EtOAC/Hexane) to give F2A as a light yellow solid (440 mg). HPLC retention time=0.766 min./condition A, M+=133.

reactant | 2-Chloro-6-methyl-nicotinonitrile | 6.55 mmol, 1 g | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | MeB(OH)2 | 7.22 mmol, 216 mg | CB(O)O | CH5BO2
reactant | K2CO3 | 19.67 mmol, 1.36 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.66 mmol, 758 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 33 mL | O1CCOCC1 | C4H8O2
product | 2,6-Dimethyl-nicotinonitrile | 440 mg | CC1=C(C#N)C=CC(=N1)C | C8H8N2
